US07414067B2
Step B: N-Cyclohexyl-N-thiazol-2-yl amine
To a suspension of 5 g (0.032 mol) of N-cyclohexyl thiourea in 50 mL of ethanol at rt was added 5.38 g (0.0318 mol) of 1,1-dimethoxy-2-bromoethane. To the reaction mixture was then added 1.25 mL of 12N HCl and the reaction mixture was heated at reflux for 12 h. The reaction mixture was then concentrated to provide an orange-brown oil which was dissolved in 50 mL of dichloromethane. The organic solution was washed twice with 1N NaOH solution (50 mL) and then with H2O. The organic fraction was dried (Na2SO4), filtered and the filtrate was concentrated to give 5.95 g of off-white solid. The residue was purified by chromatography (silica, 0 to 5% EtOAc in cyclohexane) to give the title compound. 1H NMR (CDCl3) δ 6.45 (1H, d), 5.69 (1H, d), 4.20-4.10 (1H, m), 1.99-1.55 (6H, 3 sets of m).

reactant | N-cyclohexyl thiourea | 0.032 mol, 5 g | C1(CCCCC1)NC(=S)N | C7H14N2S
reactant | 1,1-dimethoxy-2-bromoethane | 0.0318 mol, 5.38 g | COC(CBr)OC | C4H9BrO2
reactant | HCl | 12N, 1.25 mL | Cl | ClH
solvent | ethanol | 50 mL | C(C)O | C2H6O
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | N-Cyclohexyl-N-thiazol-2-yl amine | 5.95 g | C1(CCCCC1)NC=1SC=CN1 | C9H14N2S
